US09193669B2
Epoxide ring opening of 2,2-dipropyloxirane with 3-(3-aminophenyl)-3-(tert-butyldimethylsilyloxy)propanenitrile following the method used in Example 67 gave 3-(tert-butyldimethylsilyloxy)-3-(3-((1-hydroxycyclohexyl)methylamino)phenyl)propanenitrile as a colorless oil. Yield (1.5 g, 56%); 1H NMR (400 MHz, DMSO-d6) δ 7.01 (t, J=7.6 Hz, 1H), 6.63 (s, 1H), 6.57 (d, J=7.6 Hz, 1H), 6.52 (d, J=7.6 Hz, 1H), 5.22 (t, J=5.2 Hz, 1H), 4.91 (t, J=6.4 Hz, 1H), 4.21 (s, 1H), 2.84 (d, J=5.6 Hz, 2H), 2.78-2.75 (m, 2H), 1.77-1.39 (m, 10H), 0.87 (s, 9H), 0.05 (s, 3H), −0.05 (s, 3H).

reactant | 2,2-dipropyloxirane | C(CC)C1(OC1)CCC | C8H16O
reactant | 3-(3-aminophenyl)-3-(tert-butyldimethylsilyloxy)propanenitrile | NC=1C=C(C=CC1)C(CC#N)O[Si](C)(C)C(C)(C)C | C15H24N2OSi
product | 3-(tert-butyldimethylsilyloxy)-3-(3-((1-hydroxycyclohexyl)methylamino)phenyl)propanenitrile | [Si](C)(C)(C(C)(C)C)OC(CC#N)C1=CC(=CC=C1)NCC1(CCCCC1)O | C22H36N2O2Si
